US07183293B2
2-(Benzo[2,1,3]thiadiazol-5-yloxy)-nicotinic acid ethyl ester of Formula (5.0.4)
A mixture of 2-chloro-nicotinic acid ethyl ester (0.516 g, 3 mmol), benzo-[2,1,3]-thiadiazol-5-ol (0.46 g, 3 mmol) and cesium carbonate (2.07 g, 6.3 mmol) was stirred in 40 mL N,N-dimethylformamide at 80° C. for 48 hours. The dark orange mixture was cooled and poured into water (600 mL) and extracted with ethyl acetate. The combined organic layers were washed with water and brine, and dried (Na2SO4). The mixture was concentrated in vacuo to give 0.74 g yellow solid (82% yield).

reactant | 2-chloro-nicotinic acid ethyl ester | 3 mmol, 0.516 g | C(C)OC(C1=C(N=CC=C1)Cl)=O | C8H8ClNO2
reactant | benzo-[2,1,3]-thiadiazol-5-ol | 3 mmol, 0.46 g | N=1SN=C2C1C=CC(=C2)O | C6H4N2OS
reactant | cesium carbonate | 6.3 mmol, 2.07 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 600 mL | O | H2O
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 2-(Benzo[2,1,3]thiadiazol-5-yloxy)-nicotinic acid ethyl ester | 0.74 g, 82% yield | C(C)OC(C1=C(N=CC=C1)OC1=CC=2C(=NSN2)C=C1)=O | C14H11N3O3S
